US07807274B2
There were mixed 20.70 g (0.050 mole) of N-(4′-iodobiphenylyl)acetanilide, 13.50 g (0.060 mole) of 4-tert-butyldiphenylamine, 10.40 g (0.075 mole) of anhydrous potassium carbonate, 0.20 g (0.003 mole) of copper powder and 10 ml of n-dodecane, followed by reaction at 200 to 212° C. for 15 hours. The reaction product was extracted with 200 ml of toluene, and the insoluble matter was removed by filtration. Then, the filtrate was concentrated to obtain oily matter. The oily matter was dissolved in 80 ml of isoamyl alcohol, and 5 ml of water and 5.00 g (0.075 mole) of 85% potassium hydroxide were added, followed by hydrolysis at 130° C. After isoamyl alcohol was removed by steam distillation, extraction with 250 ml of toluene was performed, and the organic layer was washed with water, dried and concentrated. The concentrate was purified by column chromatography (carrier: silica gel, eluate: toluene/n-hexane=1/2) to obtain 18.8 g (yield: 73.5%, HPLC purity: 98.0%) of N-(4-tert-butylphenyl)-N,N′-diphenyl-4,4′-diaminobiphenyl. The melting point was 125.6 to 126.60° C.

reactant | N-(4′-iodobiphenylyl)acetanilide | 0.050 mole, 20.70 g | IC1=CC=C(C=C1)C1=C(C=CC=C1)N(C1=CC=CC=C1)C(C)=O | C20H16INO
reactant | 4-tert-butyldiphenylamine | 0.060 mole, 13.50 g | CC(C)(C)C1=CC=C(C=C1)NC2=CC=CC=C2 | C16H19N
reactant | potassium carbonate | 0.075 mole, 10.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-dodecane | 10 ml | CCCCCCCCCCCC | C12H26
reactant | potassium hydroxide | 0.075 mole, 5.00 g | [OH-].[K+]
solvent | isoamyl alcohol | 80 ml | C(CC(C)C)O | C5H12O
catalyst | copper | 0.003 mole, 0.20 g | [Cu] | Cu
solvent | water | 5 ml | O | H2O
product | N-(4-tert-butylphenyl)-N,N′-diphenyl-4,4′-diaminobiphenyl | 18.8 g, yield: 73.5% | C(C)(C)(C)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)NC1=CC=CC=C1)C1=CC=CC=C1 | C34H32N2
